US07612075B2
To a slurry of the {1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-2-oxo-piperidin-4-yl}-acetic acid (190 mg, 0.422 mmol) in THF (5 mL) and methylene chloride (3 mL) is added triethylamine (0.09 ml, 0.633 mmol). The solution is cooled to 0° C., and 1M isopropyl chloroformate in toluene (0.422 mL, 0.422 mmol) is added. The homogenous mixture is allowed to warm to room temperature, and 4-chloro-1,2-phenylene-diamine (150 mg, 1.06 mmol) is added. The reaction is stirred at room temperature overnight. The volatile solvents are removed, and the resulting residue is chromatographed (SiO2, 5% MeOH/EtOAc) to give N-(2-amino-5-chloro-phenyl)-2-{1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-2-oxo-piperidin-4-yl}-acetamide (200 mg, 82% yield). C34H30ClN5O2 MS m/z: 576, 578.

reactant | {1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-2-oxo-piperidin-4-yl}-acetic acid | 0.422 mmol, 190 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=C(CN2C(CC(CC2)CC(=O)O)=O)C=CC1C#N | C28H25N3O3
reactant | triethylamine | 0.633 mmol, 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | isopropyl chloroformate | 1M | ClC(=O)OC(C)C | C4H7ClO2
reactant | toluene | 0.422 mmol, 0.422 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-chloro-1,2-phenylene-diamine | 1.06 mmol, 150 mg | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(2-amino-5-chloro-phenyl)-2-{1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-2-oxo-piperidin-4-yl}-acetamide | 200 mg, 82% yield | NC1=C(C=C(C=C1)Cl)NC(CC1CC(N(CC1)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C34H30ClN5O2
